US06521663B2
1. 2-(3-{[2,2-Difluoro-2-(4-fluoronaphthyl)ethyl]amino}-6-chloro-2-fluorophenyl)-N-({6-[(tert-butoxy)carbonylamino]-2-methyl(3-pyridyl)}methyl)acetamide
To a solution of 2-(3-{[2,2-difluoro-2-(4-fluoronaphthyl)ethyl]amino}-6-chloro-2-fluorophenyl)acetic acid (15 mg, 37 μmol), as prepared according to the procedure of step 10 of Example 4, in DMF (0.3 mL) was added BOP (26 mg, 58 μmol), N-[5-(aminomethyl)-6-methyl(2-pyridyl)](tert-butoxy)carboxamide (12 mg, 51 μmol), and a solution of DIEA (19 mg, 146 μmol) in DMF (0.1 mL) (Sanderson, P. E., et al., WO 97/01338 (1997)). The mixture was stirred overnight, the solvents evaporated, and the resulting mixture was partitioned between saturated NaHCO3 and DCM. The organic layer was separated, and the aqueous layer extracted with DCM. The organic layers were combined, washed with 10% KHSO4, H2O, and brine, dried over Na2SO4, concentrated, and flash chromatographed on silica gel eluting with MeOH/DCM (0.3, 0.6, and 1%) to give the title compound (11 mg, 49% yield) as a white solid. 1H-NMR (400 MHz, CD3OD) δ 8.33 (d, J=8.4 Hz, 1H), 8.17-8.14 (m, 1H), 7.72-7.61 (m, 4H), 7.55 (d, J=8.5 Hz, 1H), 7.19 (dd, J=10.0, 8.3 Hz, 1H), 6.81 (dd, J=8.8, 1.7 Hz, 1H), 6.47 (t, J=9.1 Hz, 1H), 4.32 (s, 2H), 4.12-4.03 (m, 2H), 3.67 (d, J=2.0 Hz, 2H), 2.40 (s, 3H), 1.50 (s, 9H). Mass spectrum (LCMS, ESI) calc'd for C32H32ClF4N4O3 (M+H): 631.2. Found: 631.1.

reactant | 2-(3-{[2,2-difluoro-2-(4-fluoronaphthyl)ethyl]amino}-6-chloro-2-fluorophenyl)acetic acid | 37 μmol, 15 mg | FC(CNC=1C(=C(C(=CC1)Cl)CC(=O)O)F)(C1=CC=C(C2=CC=CC=C12)F)F | C20H14ClF4NO2
reactant | BOP | 58 μmol, 26 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-[5-(aminomethyl)-6-methyl(2-pyridyl)](tert-butoxy)carboxamide | 51 μmol, 12 mg | NCC=1C=CC(=NC1C)NC(=O)OC(C)(C)C | C12H19N3O2
reactant | DIEA | 146 μmol, 19 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-(3-{[2,2-Difluoro-2-(4-fluoronaphthyl)ethyl]amino}-6-chloro-2-fluorophenyl)-N-({6-[(tert-butoxy)carbonylamino]-2-methyl(3-pyridyl)}methyl)acetamide | 11 mg, 49% yield | FC(CNC=1C(=C(C(=CC1)Cl)CC(=O)NCC=1C(=NC(=CC1)NC(=O)OC(C)(C)C)C)F)(C1=CC=C(C2=CC=CC=C12)F)F | C32H31ClF4N4O3
